US05502054
By the method of Example 1, Step C, 7.54 g (0.030 mole) of 4-(2,4-dichlorophenyl)butanoic acid chloride and 2.69 g (0.030 mole) of copper(I) cyanide are reacted, yielding 4-(2,4-dichlorophenyl)-butanoyl cyanide.

reactant | 4-(2,4-dichlorophenyl)butanoic acid chloride | 0.030 mole, 7.54 g | ClC1=C(C=CC(=C1)Cl)CCCC(=O)Cl | C10H9Cl3O
reactant | copper(I) cyanide | 0.030 mole, 2.69 g | [Cu]C#N
product | 4-(2,4-dichlorophenyl)-butanoyl cyanide | ClC1=C(C=CC(=C1)Cl)CCCC(=O)C#N | C11H9Cl2NO
